US09351965B2
Preparation of N-(3-((1H-indazol-1-yl)methyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1H-indazole-5-carboxamide
Trifluoroacetic acid (5 mL) was added to N-(3-((1H-indazol-1-yl)methyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide (0.1 mmol). The reaction was stirred at room temperature for 30 minutes. Triethylsilane (1 drop) was added to the reaction and stirred for an additional 5 minutes. The crude product purified using prep HPLC.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(3-((1H-indazol-1-yl)methyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | 0.1 mmol | N1(N=CC2=CC=CC=C12)CC1CC(CCC1)NC(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=NC=C1)C | C47H42N6O
catalyst | Triethylsilane | 1 drop | C(C)[SiH](CC)CC | C6H16Si
product | N-(3-((1H-indazol-1-yl)methyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1H-indazole-5-carboxamide | N1(N=CC2=CC=CC=C12)CC1CC(CCC1)NC(=O)C=1C=C2C(=NNC2=CC1)C1=CC(=NC=C1)C | C28H28N6O
